US04232163
Preparation of 2-amino-4-[N-4-chlorophenyl-N-methyl(carbamoylmethyl)] thiazole
A 500 ml reaction flask equipped with a condenser, magnetic stirrer, thermometer and heating mantle was charged with 20.2 g (0.066 mole) of 4-bromo-4'-chloro-N-methylacetoacetanilide, 200 ml of ethanol and 5.4 g (0.071 mole) of thiourea. The reaction solution was refluxed for three hours. After cooling, about one-half of the solvent was removed on the rotary evaporator and the solution was poured into 300 ml of water. After adding sufficient ammonium hydroxide to pH 8, additional water was added. The precipitated crystalline product was dried in a vacuum oven. There was obtained 12.4 g (66.7%) of white material, M.P. 148°-50°. N.M.R. (dimethyl-d6 sulfoxide, CDCl3) ∂3.2 (NCH3), 3.3 (CH2), 6.0 (heteroaromatic), 7.3-7.5 (aromatic).

reactant | 4-bromo-4'-chloro-N-methylacetoacetanilide | 0.066 mole, 20.2 g | BrCC(CC(=O)N(C1=CC=C(C=C1)Cl)C)=O | C11H11BrClNO2
reactant | thiourea | 0.071 mole, 5.4 g | NC(=S)N | CH4N2S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-amino-4-[N-4-chlorophenyl-N-methyl(carbamoylmethyl)] thiazole | 12.4 g, 66.7% | NC=1SC=C(N1)CC(N(C)C1=CC=C(C=C1)Cl)=O | C12H12ClN3OS
